US09403789B2
To a solution of N-Boc-glycine (1.0 g, 5.7 mmol) in DMF (10 ml) were added diisobutylamine (0.10 ml, 11.4 mmol), DIPEA (1.9 ml, 11.4 mmol) and TBTU (2.7 g, 8.5 mmol). The mixture was stirred for 1 hr at room temperature, quenched with saturated aqueous sodium bicarbonate (15 ml), and extracted with EtOAc (20 ml). The organic phase was washed with brine (15 ml), dried over anhydrous MgSO4 and concentrated in vacuo. The crude material was purified by flash column chromatography (30% EtOAc in hexanes) to provide tert-butyl 2-(diisobutylamino)-2-oxoethylcarbamate (1.6 g, 98%) as a colorless oil. [M+H]+ 287.3, HPLC purity: 90%.

reactant | N-Boc-glycine | 5.7 mmol, 1.0 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | diisobutylamine | 11.4 mmol, 0.10 ml | C(C(C)C)NCC(C)C | C8H19N
reactant | DIPEA | 11.4 mmol, 1.9 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 8.5 mmol, 2.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | tert-butyl 2-(diisobutylamino)-2-oxoethylcarbamate | 1.6 g, 98% | C(C(C)C)N(C(CNC(OC(C)(C)C)=O)=O)CC(C)C | C15H30N2O3
